US07612226B2
(5R)-5-Methylheptan-2-one
Dicyclohexyl carbodiimide (9.51 g, 46.1 mmol), N,N′-dimethyl-4-aminopyridine (1.13 g, 9.2 mmol) and triethylamine (6.4 ml, 46.1 mmol) were added to a solution of Meldrum's acid (6.64 g, 46.1 mmol) in dichloromethane (150 ml). (4R)-4-Methylhexanoic acid (6 g, 46.1 mmol) was added and the reaction mixture was stirred overnight. The reaction mixture was filtered and the solid was washed with dichloromethane (2×100 ml). The filtrate and washings were combined and evaporated under reduced pressure to give an orange oil. Acetic acid (50 ml) and water (50 ml) were added and the reaction was heated under reflux overnight. After the solution had cooled to room temperature it was extracted with pentane (100 ml). The organic extract was dried (MgSO4) and evaporated to give a residue that was purified by column chromatography on silica gel using an elution gradient of pentane to pentane:diethyl ether 19:1 to give the title compound (2.8 g) as a pale yellow oil.

reactant | Dicyclohexyl carbodiimide | 46.1 mmol, 9.51 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 46.1 mmol, 6.4 ml | C(C)N(CC)CC | C6H15N
reactant | Meldrum's acid | 46.1 mmol, 6.64 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | (4R)-4-Methylhexanoic acid | 46.1 mmol, 6 g | C[C@@H](CCC(=O)O)CC | C7H14O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | Acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | (5R)-5-Methylheptan-2-one | 2.8 g | C[C@@H](CCC(C)=O)CC | C8H16O
